US07125898B2
6-Bromonicotinic acid (200 mg, 0.99 mmol) was heated at reflux in thionyl chloride (2 ml) for 3 hrs. The reaction was allowed to cool to room temperature and the excess thionyl chloride evaporated under vacuum. The residue was dissolved in DCM (2 ml), 3-methoxybenzylamine (137 mg, 0.10 mmol) and sodium carbonate (500 mg) were added to the solution. The reaction was stirred at room temperature for 4 hrs, filtered and the filtrate reduced to dryness under vacuum to give 6-chloro-N-(3-methoxybenzyl)nicotinamide. NMR: δH [2H6]-DMSO 9.29,(1H, t), 8.88,(1H, d), 8.28,(1H, dd), 7.66,(1H, d), 7.25,(1H, t), 6.90,(2H, m), 6.83,(1H, m), 4.47,(2H, d), 3.74,(3H, s).

reactant | 6-Bromonicotinic acid | 0.99 mmol, 200 mg | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
reactant | 3-methoxybenzylamine | 0.10 mmol, 137 mg | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | sodium carbonate | 500 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-chloro-N-(3-methoxybenzyl)nicotinamide | ClC1=NC=C(C(=O)NCC2=CC(=CC=C2)OC)C=C1 | C14H13ClN2O2
